US09315521B2
To a 0° C. mixture of 3-(bromomethyl)-2-ethylpyridine (21.9 mmol) and 6-methyl-2-sulfanylpyrimidin-4-ol (2.0 g, 14 mmol) in absolute ethanol (200 mL) was added triethylamine (11 mL, 79 mmol). The mixture was stirred at room temperature overnight. Diethyl ether (300 mL) was added to the clear solution. The precipitate was removed by filtration. The filtrate was recovered, evaporated, and co-evaporated with EtOAc (1×100 mL). The residue was treated with water (300 mL). The solid material was recovered by filtration, washed with water (3×50 mL), diethyl ether (2×50 mL), and hexanes (1×50 mL), and dried in vacuo, affording 2-{[(2-ethylpyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (1.9 g, 52% yield), which was used without further purification.

reactant | 3-(bromomethyl)-2-ethylpyridine | 21.9 mmol | BrCC=1C(=NC=CC1)CC | C8H10BrN
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 14 mmol, 2.0 g | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 79 mmol, 11 mL | C(C)N(CC)CC | C6H15N
reactant | Diethyl ether | 300 mL | C(C)OCC | C4H10O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 2-{[(2-ethylpyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 1.9 g, 52% yield | C(C)C1=NC=CC=C1CSC1=NC(=CC(=N1)O)C | C13H15N3OS
